US06689733B1
4-(N-Ethyl-N-methylamino)salicylaldehyde
6.14 g (0.066 mol) of phosphorus oxychloride are cautiously added to 19 ml of dry DMF at −5° C. within a period of 5 minutes, during the course of which the temperature of the reaction solution should not exceed 10° C. Subsequently, a solution of 9.9 g (0.066 mol) of 3-(N-ethyl-N-methylamino)phenol in 14 ml of dry DMF is added thereto within a period of 10 minutes, during the course of which the temperature of the reaction solution should not exceed 20° C. When the addition is complete, the reaction solution is heated for 2 hours at 90° C. and then immediately poured onto 100 g of ice. The crude mixture is stirred for 30 minutes. The reaction solution is extracted three times with 100 ml of chloroform. The combined organic phases are concentrated under a high vacuum. The oily residue which remains is purified by column chromatography on silica gel (eluant n-hexanelchloroform 95:5). Yield: 5.8 g (26%), colourless solid.

reactant | phosphorus oxychloride | 0.066 mol, 6.14 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(N-ethyl-N-methylamino)phenol | 0.066 mol, 9.9 g | C(C)N(C)C=1C=C(C=CC1)O | C9H13NO
reactant | DMF | 14 ml | CN(C)C=O | C3H7NO
reactant | DMF | 19 ml | CN(C)C=O | C3H7NO
product | 4-(N-Ethyl-N-methylamino)salicylaldehyde | C(C)N(C)C=1C=C(C(C=O)=CC1)O | C10H13NO2
